US07915288B2
To a solution of n-BuLi (25 mL of 1.6 M solution in hexane, 40 mmol) in THF (100 mL) is added 2,2,6,6-teramethylpiperidine (6.8 mL, 40 mmol) at −78° C. and the mixture is stirred for 20 minutes. To this is added 3-bromofluorobenzene (7.0 g, 40 mmol). After stirring for 3 hours at −78° C., DMF (15 mL, 200 mmol) is added and the mixture is warmed to room temperature and stirred for 1 hour. The mixture is quenched with 1N HCl and extracted with EtOAc. The combined extracts are dried (MgSO4) and concentrated in vacuo. The residue is purified by flash chromatography (elution with Hex/EtOAc 10:1) to yield 2-bromo-6-fluoro-benzaldehyde. 1H NMR (CDCl3) 10.4 (s, 1H), 7.48-7.39 (m, 2H), 7.18-7.14 (m, 1H).

reactant | n-BuLi | 40 mmol, 1.6 M, 25 mL | [Li]CCCC
reactant | 2,2,6,6-teramethylpiperidine | 40 mmol, 6.8 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 3-bromofluorobenzene | 40 mmol, 7.0 g | BrC=1C=C(C=CC1)F | C6H4BrF
reactant | DMF | 200 mmol, 15 mL | CN(C)C=O | C3H7NO
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-bromo-6-fluoro-benzaldehyde | BrC1=C(C=O)C(=CC=C1)F | C7H4BrFO
